US09061013B2
1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid methyl ester
To a stirred solution of 1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester (Preparation 10, 2.36 g, 10.08 mmol) in DMF (25 mL) was added N-chloro succinimide (1.48 g, 11.09 mmol) at 0° C. Resulting reaction mixture was stirred at 0° C. for 1 hour and then at 10° C. for 1 hour. After complete consumption of starting material to chloro intermediate (red colored reaction mixture) potassium hydrogen carbonate (1.51 g, 15.12 mmol, 1.5 eq.) was added followed by of 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)benzene (1.21 g, 12.10 mmol) at room temperature. Resulting reaction mixture was stirred at room temperature for 4 hours under nitrogen atmosphere. After consumption of chloro intermediate, reaction mixture was quenched with water (200 mL) and extracted with EtOAc (2×200 mL). Combined organic layer was washed with water (2×400 mL), brine (2×200 mL), dried over anhydrous sodium sulphate and concentrated in vacuo to afford brown colored semi solid (2.5 g, crude). Crude compound was purified by column chromatography (silica gel, 100-200 mesh). Compound was eluted using 25% ethyl acetate in hexane to afford off white solid (1.91 g, 33%). 1H NMR (400 MHz, CDCl3): 3.58-3.63 (m, 2H), 3.75 (s, 3H), 4.03 (d, 1H, J=17.04 Hz), 4.07-4.15 (m, 4H), 6.39-6.42 (m, 2H), 7.46-7.49 (m, 2H), 7.63 (s, 2H); LC-MS (M+H): =506.90.

reactant | 1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester | 10.08 mmol, 2.36 g | COC(=O)C1CN(C1)C1=CC=C(C=C1)C=NO | C12H14N2O3
reactant | N-chloro succinimide | 11.09 mmol, 1.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | potassium hydrogen carbonate | 15.12 mmol, 1.51 g, 1.5 eq. | C(O)([O-])=O.[K+]
reactant | 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)benzene | 12.10 mmol, 1.21 g | ClC1=C(C(=CC(=C1)C(=C)C(F)(F)F)Cl)Cl | C9H4Cl3F3
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid methyl ester | 1.91 g, 33% | COC(=O)C1CN(C1)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H16Cl3F3N2O3
